US07468449B2
C. Z/E-3-(5-Methoxycarbonyl-2-furanyl)pent-2-ene
3-(5-Carboxy-2-furanyl)pentan-3-ol (200 mg, 1.1 mmol) is dissolved in methanol (20 mL). HCl (g) is bubbled through the solution for 30 seconds. The reaction is stirred for 20 minutes at room temperature with no reaction. The solution is heated to 60° C. for 2 hours. The solution is concentrated and water is added followed by solid NaHCO3 until the pH was basic. Ethyl acetate is added and the solution is extracted. The organic layer is washed with water, dried over MgSO4 and filtered. The filtrate is concentrated to 213 mg of an orange oil which is used as is.

reactant | 3-(5-Carboxy-2-furanyl)pentan-3-ol | 1.1 mmol, 200 mg | C(=O)(O)C1=CC=C(O1)C(CC)(CC)O | C10H14O4
reactant | methanol | 20 mL | CO | CH4O
product | E-3-(5-Methoxycarbonyl-2-furanyl)pent-2-ene | COC(=O)C1=CC=C(O1)/C(=C/C)/CC | C11H14O3
